US05916898
A mixture of 2-nitroaniline (41.4 g) and diethyl ethoxymethylenemalonate (66 ml) was heated on a steam bath for 24 hours. The hot reaction mixture was treated with ethanol (300 ml), cooled and filtered to give diethyl (2-nitroanilino)methylenemalonate in 88% yield, mp 104-105° C.

reactant | 2-nitroaniline | 41.4 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | diethyl ethoxymethylenemalonate | 66 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | diethyl (2-nitroanilino)methylenemalonate | 88% yield | [N+](=O)([O-])C1=C(NC=C(C(=O)OCC)C(=O)OCC)C=CC=C1 | C14H16N2O6
